datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)(C)c1ccc([NH2+:21][H:20])cc1.O=C(CCCCc1ccccc1)[O-:10]>>CC(C)(C)c1ccc([NH2:21])cc1.O=C(CCCCc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"NNC(=O)C(Cc1ccccc1)[NH2+:21][H:20].O=C(c1ccncc1)[N-:10]O>>NNC(=O)C(Cc1ccccc1)[NH2:21].O=C(c1ccncc1)[N:10](O)[H:20] 10=20;20,21=21",
"CCOCC[NH:10]c1ccc(C)cc1.Cc1ccc(-c2oc(-c3ccc(Br)cc3)c[n+:21]2[H:20])cc1>>CCOCC[NH+:10](c1ccc(C)cc1)[H:20].Cc1ccc(-c2oc(-c3ccc(Br)cc3)c[n:21]2)cc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CCC#CC#CCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCC#CC#CCCC[NH2+:10][H:20] 10=20;20,21=21",
"CCCCCCCCCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCCCCCCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCP(=O)(CCCCC)[O-:10].c1ccc(Cc2cc(-c3ccccc3)nnc2NCC[N+:21]2([H:20])CCOCC2)cc1>>CCCCCP(=O)(CCCCC)[O:10][H:20].c1ccc(Cc2cc(-c3ccccc3)nnc2NCC[N:21]2CCOCC2)cc1 10=20;20,21=21",
"CCC(=O)C(CC[N:10]1CCOCC1)(c1ccccc1)c1ccccc1.N#CC(C#N)=N[N:21](c1c(Cl)cccc1Cl)[H:20]>>CCC(=O)C(CC[N+:10]1([H:20])CCOCC1)(c1ccccc1)c1ccccc1.N#CC(C#N)=N[N-:21]c1c(Cl)cccc1Cl 10=20;20,21=21",
"C1CC2CCNC2=[N:10]C1.CCSC(C)(O)[OH+:21][H:20]>>C1CC2CCNC2=[N+:10]([H:20])C1.CCSC(C)(O)[OH:21] 10=20;20,21=21",
"C1CC[NH:10]CC1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1CC[NH+:10]([H:20])CC1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CCCC(OCC)=[NH:10].CN(C)C(=S)NCC(=O)[O:21][H:20]>>CCCC(OCC)=[NH+:10][H:20].CN(C)C(=S)NCC(=O)[O-:21] 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N:10](C)CC[C@@]341.Cc1ccc(C(=S)[N:21](c2cccc(F)c2)[H:20])cc1>>COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N+:10](C)([H:20])CC[C@@]341.Cc1ccc(C(=S)[N-:21]c2cccc(F)c2)cc1 10=20;20,21=21",
"Cc1c(N)cnc[n+:21]1[H:20].O=S1(=O)N=C[N-]c2nc[n-:10]c21>>Cc1c(N)cnc[n:21]1.O=S1(=O)N=C[N-]c2nc[n:10]([H:20])c21 10=20;20,21=21",
"CC1=C/C(=N\c2ccc([O-:10])cc2)C(C(C)C)=CC1=O.OCc1ccc[n+:21]([H:20])c1>>CC1=C/C(=N\c2ccc([O:10][H:20])cc2)C(C(C)C)=CC1=O.OCc1ccc[n:21]c1 10=20;20,21=21",
"Cc1cc(C(=O)[O:21][H:20])ccc1[N+](=O)[O-].Nc1nc[n:10]c2c1cnn2CCO>>Cc1cc(C(=O)[O-:21])ccc1[N+](=O)[O-].Nc1nc[n+:10]([H:20])c2c1cnn2CCO 10=20;20,21=21",
"CC#CC#CC(=O)[O:21][H:20].CC(C)[N:10](C(C)C)C(C)C>>CC#CC#CC(=O)[O-:21].CC(C)[N+:10](C(C)C)(C(C)C)[H:20] 10=20;20,21=21",
"COc1ccc[n+:21]([H:20])c1.O=[PH]([O-])C([NH2+]Cc1cccc[n:10]1)c1ccccc1O>>COc1ccc[n:21]c1.O=[PH]([O-])C([NH2+]Cc1cccc[n+:10]1[H:20])c1ccccc1O 10=20;20,21=21",
"CC[N+:21](CC)(Cc1ccccc1)[H:20].Nc1c(C(=O)[O-])[n:10]cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O>>CC[N:21](CC)Cc1ccccc1.Nc1c(C(=O)[O-])[n+:10]([H:20])cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O 10=20;20,21=21",
"Cn1c(CCl)nc2c([O-:10])ccc(O)c21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cn1c(CCl)nc2c([O:10][H:20])ccc(O)c21.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C)OOCCC(=O)[O-:10].Cc1ccc(O)c(C(=O)[O:21][H:20])c1>>CC(C)(C)OOCCC(=O)[O:10][H:20].Cc1ccc(O)c(C(=O)[O-:21])c1 10=20;20,21=21",
"CC(=O)N[O-:10].c1ccc(-c2ccccc2[O:21][H:20])nc1>>CC(=O)N[O:10][H:20].c1ccc(-c2ccccc2[O-:21])nc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])C(O)C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C(O)C[NH2+:10][H:20] 10=20;20,21=21",
"CC(=NO)C(=O)[N-:10]O.Cc1nsc([S:21][H:20])n1>>CC(=NO)C(=O)[N:10](O)[H:20].Cc1nsc([S-:21])n1 10=20;20,21=21",
"Cc1c[n+:21]([H:20])n(C)c1C.c1c[nH]c(P(c2ncc[nH]2)c2[nH]cc[n:10]2)n1>>Cc1c[n:21]n(C)c1C.c1c[nH]c(P(c2ncc[nH]2)c2[nH]cc[n+:10]2[H:20])n1 10=20;20,21=21",
"C[N:10](C)c1ccc(/C=N/c2ncc3[nH+]c[nH]c3n2)cc1.C[NH+](C)CCCNc1c([N+](=O)[O-])c[n+:21]([H:20])c2ccccc12>>C[N+:10](C)(c1ccc(/C=N/c2ncc3[nH+]c[nH]c3n2)cc1)[H:20].C[NH+](C)CCCNc1c([N+](=O)[O-])c[n:21]c2ccccc12 10=20;20,21=21",
"Cc1c(Cl)c(C)[n:10]n1C.Cc1cc([O:21][H:20])[nH+]c2c1CCO2>>Cc1c(Cl)c(C)[n+:10]([H:20])n1C.Cc1cc([O-:21])[nH+]c2c1CCO2 10=20;20,21=21",
"C[NH+](C)CCCCCCCCCNC(=O)/C=N/[O-:10].N=C(N)Nc1nc(N)nc(N/C(N)=[NH+:21]/[H:20])n1>>C[NH+](C)CCCCCCCCCNC(=O)/C=N/[O:10][H:20].N=C(N)Nc1nc(N)nc(NC(N)=[NH:21])n1 10=20;20,21=21",
"CC(C)(C)[O-:10].CC1=CC=C([CH:21](C(=O)C2=CC=[N+](C)C=C2)[H:20])C=C1>>CC(C)(C)[O:10][H:20].CC1=CC=C([CH-:21]C(=O)C2=CC=[N+](C)C=C2)C=C1 10=20;20,21=21",
"CC(C=C(c1cccs1)c1cccs1)[N+:21]1([H:20])CCCCC1.Nc1ncnc2c1nc[n-:10]2>>CC(C=C(c1cccs1)c1cccs1)[N:21]1CCCCC1.Nc1ncnc2c1nc[n:10]2[H:20] 10=20;20,21=21",
"O=C(/C=C/c1ccc2c(c1)OCO2)[O:21][H:20].O=C([O-])[C@@H]1O[C@H](Oc2cccc3ccc[n:10]c23)[C@@H](O)[C@H](O)[C@H]1O>>O=C(/C=C/c1ccc2c(c1)OCO2)[O-:21].O=C([O-])[C@@H]1O[C@H](Oc2cccc3ccc[n+:10]([H:20])c23)[C@@H](O)[C@H](O)[C@H]1O 10=20;20,21=21",
"CC[NH+](CC)CCCC(C)Nc1cc(C)[n+:21]([H:20])c2cc(Cl)ccc12.O=[N+]([O-])c1cnc([NH-:10])nc1>>CC[NH+](CC)CCCC(C)Nc1cc(C)[n:21]c2cc(Cl)ccc12.O=[N+]([O-])c1cnc([NH:10][H:20])nc1 10=20;20,21=21",
"CCCCNCC[NH:10]CCCC.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCCNCC[NH+:10](CCCC)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
